US03953604
A suspension of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3 -(m-trifluoromethylphenoxy) propane (29.6 g) in diethyl oxalate (30 ml) was added to a suspension of sodium ethoxide, prepared from sodium (6.0 g) and ethanol (60 ml) in dry ether (400 ml). The resulting solution was heated under reflux for 2 hours, cooled, and poured onto ice (200 g). After acidification with a solution of acetic acid (24 ml) in water (160 ml), the ether layer was separated, and the aqueous layer extracted with ether (3 × 50 ml). The combined extracts were evaporated under reduced pressure, and the residue dissolved in ethanol (96%, 100 ml) to which hydrochloric acid (20 drops) was added. This solution was heated under reflux for 1 hour, and the ethanol then removed under reduced pressure to give a beige solid, which was crystallized from aqueous ethanol to yield 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-(m-trifluoromethylphenoxy) propane (19.5 g) as white needles m.p. 70°- 75° C.

reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3 -(m-trifluoromethylphenoxy) propane | 29.6 g | C(C)(=O)C1=C(OCC(COC2=CC(=CC=C2)C(F)(F)F)O)C=CC=C1O | C18H17F3O5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 6.0 g | [Na] | Na
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | diethyl oxalate | 30 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 400 ml | CCOCC | C4H10O
product | 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-(m-trifluoromethylphenoxy) propane | 19.5 g | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC(=CC=C1)C(F)(F)F)O | C22H19F3O7
